US08058293B2
(S)-tert-butyl 2-((5-tert-butyl-2-iminothiazol-3(2H)-yl)methyl)pyrrolidine-1-carboxylate
To a solution of 3,3-dimethylbutanal (130 mg, 1.30 mmol) in acetonitrile (8 mL) was added molecular sieves (4A beads, 8-12 mesh, 0.7 g) and (S)-tert-butyl 2-(aminomethyl)pyrrolidine-1-carboxylate (260 mg, 1.30 mmol). The mixture was stirred for 12 hr at room temperature, filtered, and washed with acetonitrile (5 mL). To this solution was added potassium thiocyanate (168 mg, 1.72 mmol) and the temperature was adjusted at 50° C. The reaction was stirred until all solids were dissolved then iodine (659 mg, 2.6 mmol) was added. The reaction mixture was stirred at 50° C. for another 12 hr, cooled to room temperature, and stirred with 20% sodium metabisulfite for 1 hr. The organic layer was separated and the aqueous layer was extracted with dichloromethane (3×10 mL). The combined organics were dried over sodium sulfate, filtered, and concentrated under reduced pressure to give the title compound. This intermediate was used without further purification. MS (DCI/NH3) m/z 340 (M+H)+.

reactant | 3,3-dimethylbutanal | 1.30 mmol, 130 mg | CC(CC=O)(C)C | C6H12O
reactant | (S)-tert-butyl 2-(aminomethyl)pyrrolidine-1-carboxylate | 1.30 mmol, 260 mg | NC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | potassium thiocyanate | 1.72 mmol, 168 mg | [S-]C#N.[K+]
reactant | iodine | 2.6 mmol, 659 mg | II | I2
reactant | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | (S)-tert-butyl 2-((5-tert-butyl-2-iminothiazol-3(2H)-yl)methyl)pyrrolidine-1-carboxylate | C(C)(C)(C)C1=CN(C(S1)=N)C[C@H]1N(CCC1)C(=O)OC(C)(C)C | C17H29N3O2S
